US08420856B2
Preparation of 3-oxo-N-(4-trifluoromethylphenyl)butanamide (II)
Ethylacetoacetate (10 g) and 4-(trifluoromethyl) aniline (12.38 g) in xylene (250 ml) was refluxed for 48 hours. Reaction mixture was concentrated and purified by column chromatography to give pure (9.7 g).

reactant | Ethylacetoacetate | 10 g | C(C)OC(CC(=O)C)=O | C6H10O3
reactant | 4-(trifluoromethyl) aniline | 12.38 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-oxo-N-(4-trifluoromethylphenyl)butanamide | O=C(CC(=O)NC1=CC=C(C=C1)C(F)(F)F)C | C11H10F3NO2
